US07807709B2
C. (3S*,4R*)-3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-(isopropylamino-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
The title compound is prepared in a similar manner as described for Example 9/reaction step F, from (3S*,4S*)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester (19.3 g, 56.1 mmol), isopropylamine (14.5 mL, 168 mmol) and NaBH(OAc)3 (29.7 g, 140 mmol) in 1,2-dichloroethane (0.5 L) as a yellowish oil. MS: 387.2 [M+H]+. tR (HPLC, C18 column, 5-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 5.34 min.

reactant | (3S*,4S*)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 56.1 mmol, 19.3 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C=O)C(O[SiH2]C(C)(C)C)(C)C | C17H33NO4Si
reactant | isopropylamine | 168 mmol, 14.5 mL | C(C)(C)N | C3H9N
reactant | NaBH(OAc)3 | 140 mmol, 29.7 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | CH3CN H2O | CC#N.O
solvent | 1,2-dichloroethane | 0.5 L | ClCCCl | C2H4Cl2
solvent | H2O | O | H2O
solvent | CH3CN | CC#N | C2H3N
product | (3S*,4R*)-3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-(isopropylamino-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CNC(C)C)C(O[SiH2]C(C)(C)C)(C)C | C20H42N2O3Si
